US04072696
5 G. of 1-acetamido-2-nitro-4-thiocyanatobenzene and 2.8 ml. of n-butyl bromide are added to a solution of 4.8 g. of potassium hydroxide in 70 ml. of n-butanol. The mixture is left overnight at room temperature, then diluted with water. 1-Amino-2-nitro-4-n-butylthiobenzene is isolated by extraction with chloroform.

reactant | 1-acetamido-2-nitro-4-thiocyanatobenzene | C(C)(=O)NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C9H7N3O3S
reactant | n-butyl bromide | C(CCC)Br | C4H9Br
reactant | potassium hydroxide | [OH-].[K+]
reactant | n-butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Amino-2-nitro-4-n-butylthiobenzene | NC1=C(C=C(C=C1)SCCCC)[N+](=O)[O-] | C10H14N2O2S
